US09428510B2
4-(1-methylpiperidin-4-yl)-2-(2,2,2-trifluoro-N-(tetrahydro-2H-pyran-4-yl)acetamido)benzoic acid hydrotrifluoroacetate
6.33 mL of 2,2,2-trifluoroacetic acid (82 mmol) is added under stirring to a solution of 3.2 g of tert-butyl 4-(1-methylpiperidin-4-yl)-2-(2,2,2-trifluoro-N-(tetrahydro-2H-pyran-4-yl)acetamido)benzoate (5.47 mmol) (in the form of a salt of trifluoroacetic acid) in 30 mL of dichloromethane. The reaction medium is stirred at room temperature for 16 h, and then evaporated under reduced pressure. The residue is taken up in ethanol, and the white solid formed is filtered on a fritted disc to yield 1.61 g (53%) of white crystals.

reactant | 2,2,2-trifluoroacetic acid | 82 mmol, 6.33 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | tert-butyl 4-(1-methylpiperidin-4-yl)-2-(2,2,2-trifluoro-N-(tetrahydro-2H-pyran-4-yl)acetamido)benzoate | 5.47 mmol, 3.2 g | CN1CCC(CC1)C1=CC(=C(C(=O)OC(C)(C)C)C=C1)N(C(C(F)(F)F)=O)C1CCOCC1 | C24H33F3N2O4
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
product | 4-(1-methylpiperidin-4-yl)-2-(2,2,2-trifluoro-N-(tetrahydro-2H-pyran-4-yl)acetamido)benzoic acid | 1.61 g, 53% | CN1CCC(CC1)C1=CC(=C(C(=O)O)C=C1)N(C(C(F)(F)F)=O)C1CCOCC1 | C20H25F3N2O4
